US09056873B2
Step A: Ethyl 2-bromoindolizine-7-carboxylate
A mixture of 4-bromo-1H-pyrrole-2-carbaldehyde (1.00 g, 5.75 mmol), (E)-ethyl 4-bromobut-2-enoate (1.555 mL, 11.49 mmol), and potassium carbonate (1.74 g, 12.6 mmol) in DMF (20 mL) was stirred overnight at room temperature under a nitrogen atmosphere. Following reaction, the solution was extracted with ethyl acetate (2×100 mL) and water (100 mL). The organic layers were combined, dried over sodium sulfate, concentrated, and purified via silica gel flash chromatography, eluting with a gradient of 10-30% EtOAc and hexane to give, upon removal of solvent, the title compound as a purple solid (350 mg, 23%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.32 (t, J=7.40 Hz, 3H), 4.31 (q, J=5.40 Hz, 2H), 6.92 (s, 1H), 7.02-7.03 (m, 1H), 7.93 (s, 1H), 8.13 (s, 1H), 8.28-8.29 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C11H10BrNO2, 268. found, 268.

reactant | 4-bromo-1H-pyrrole-2-carbaldehyde | 5.75 mmol, 1.00 g | BrC=1C=C(NC1)C=O | C5H4BrNO
reactant | (E)-ethyl 4-bromobut-2-enoate | 11.49 mmol, 1.555 mL | BrC/C=C/C(=O)OCC | C6H9BrO2
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-bromoindolizine-7-carboxylate | 350 mg, 23% | BrC=1C=C2C=C(C=CN2C1)C(=O)OCC | C11H10BrNO2
